* TRIACs PSpice Models *
***************************************************************************
* Note :
*
* This TRIAC model simulates:
* -Igt (the same for all quadrants) MAX of the specification
*note: for 4 quadrants TRIAC, IGT Q4 is taken into account for all quadrants
* -Il (the same for all quadrants) Typ of the specification
* -Ih (the same for both polarity) Typ of the specification
* -VDRM
* -VRRM
* -(dI/dt)c and (dV/dt)c parameters are simulated only if those
* constraints exceed very highly the specified limits.
* -Power dissipation is realistic and correspond to a typical TRIAC
*
* All these parameters are constant, and don't vary neither with
* temperature nor other parameters.
*
* The "STANDARD" parameter switch between 4 quadrants TRIACs (STANDARD = 1)
* and 3 quadrants TRIACs (STANDARD = 0).
* The "STANDARD" parameter maintains or suppress the triggering possibility of
* the TRIAC in the fourth quadrant, and has absolutely NO EFFECT on other
* parameters.
*
* For a correct triac behavior, the "Maximum step size" must be below
* or equal 20µs.
*
*
*
*$
* pins = A=MT1 K=MT2 G=Gate
.subckt Triac_ST A K G PARAMS: Vdrm=400v Igt=20ma Ih=6ma Rt=0.01 Standard=1
*
* Vdrm : Repetitive forward off-state voltage
* Ih : Holding current
* Igt : Gate trigger current
* Rt : Dynamic on-state resistance
* Standard : Differenciation between Snubberless and Standard TRIACs
* (Standard=0 => Snubberless TRIACs, Standard=1 => Standard TRIACs)
*
* Added for Convergence - eetech00@yahoo.com
*C100  A K 10n
****************************
* Power circuit *
****************************
*
****************************
*Switch circuit*
****************************
* Q1 & Q2 Conduction
S_S3 A Plip1 positive 0 Smain
*RS_S3 positive 0 1G
D_DAK1 Plip1 Plip2 Dak
R_Rlip Plip1 Plip2 1k
V_Viak Plip2 K DC 0 AC 0
*
* Q3 & Q4 Conduction
S_S4 A Plin1 negative 0 Smain
*RS_S4 negative 0 1G
D_DKA1 Plin2 Plin1 Dak
R_Rlin Plin1 Plin2 1k
V_Vika K Plin2 DC 0 AC 0
****************************
*Gate circuit*
****************************
R_Rgk G K 10G
D_DGKi Pg2 G Dgk
D_DGKd G Pg2 Dgk
V_Vig Pg2 K DC 0 AC 0
R_Rlig G Pg2 1k
*
****************************
*Interface circuit*
****************************
* positive pilot
R_Rp Controlp positive 2.2
C_Cp 0 positive 1u
BE_IF15OR3 Controlp 0 V=IF(((V(CMDIG)>0.5)|(V(CMDILIH)>0.5)|(V(CMDVdrm)>0.5)),400,0)
*
* negative pilot
R_Rn Controln negative 2.2
C_Cn 0 negative 1u
BE_IF14OR3 Controln 0 V=IF(((V(CMDIG)>0.5)|(V(CMDILIHN)>0.5)|(V(CMDVdrm)>0.5)),400,0)
*
****************************
* Pilots circuit *
****************************
****************************
* Pilot Gate *
****************************
BE_IF1IG inIG 0 V=IF((ABS(I(V_Vig)))>(Igt-1u),1,0)
BE_MULT2MULT CMDIG 0 V=V(Q4)*V(inIG)
BE_IF2Quadrant4 Q4 0 V=IF(((I(V_Vig)>(Igt-0.000001))&((V(A)-V(K))<0)&(Standard==0)),0,1)
*
****************************
* Pilot IHIL *
****************************
*
BE_IF10IL inIL 0 V=IF(((I(V_Viak))>(Ih/2)),1,0)
BE_IF5IH inIH 0 V=IF(((I(V_Viak))>(Ih/3)),1,0)
*
* Flip_flop IHIL
BE_IF6DIHIL SDIHIL 0 V=IF((V(inIL)*V(inIH)+V(inIH)*(1-V(inIL))*(V(CMDILIH)))>0.5,1,0)
C_CIHIL CMDILIH 0 1n
R_RIHIL SDIHIL CMDILIH 1K
R_RIHIL2 CMDILIH 0 100Meg
*
****************************
* Pilot IHILN *
****************************
*
BE_IF11ILn inILn 0 V=IF(((I(V_Vika))>(Ih/2)),1,0)
BE_IF3IHn inIHn 0 V=IF(((I(V_Vika))>(Ih/3)),1,0)
* Flip_flop IHILn
BE_IF4DIHILN SDIHILN 0 V=IF((V(inILn)*V(inIHn)+V(inIHn)*(1-V(inILn))*(V(CMDILIHN)))>0.5,1,0)
C_CIHILn CMDILIHN 0 1n
R_RIHILn SDIHILN CMDILIHN 1K
R_RIHILn2 CMDILIHN 0 100Meg
*
****************************
* Pilot VDRM *
****************************
BE_IF8Vdrm inVdrm 0 V=IF((ABS(V(A)-V(K))>(Vdrm*1.3)),1,0)
BE_IF9IHVDRM inIhVdrm 0 V=IF((I(V_Viak)>(Vdrm*1.3)/1.2meg)|(I(V_Vika)>(Vdrm*1.3)/1.2meg),1,0)
* Flip_flop VDRM
BE_IF7DVDRM SDVDRM 0 V=IF((V(inVdrm)+(1-V(inVdrm))*V(inIhVdrm)*V(CMDVdrm))>0.5,1,0)
C_CVdrm CMDVdrm 0 1n
R_RVdrm SDVDRM CMDVdrm 100
R_RVdrm2 CMDVdrm 0 100Meg
*
****************************
* Switch Model *
****************************
*.MODEL Smain VSWITCH Roff=1.2meg Ron={Rt} Voff=0 Von=100
.MODEL Smain SW Roff=1.2meg Ron={Rt} Vh=50 Vt=50
****************
* Diodes Model *
****************
.MODEL Dak D( Is=3E-12 Cjo=5pf)
.MODEL Dgk D( Is=1E-16 Cjo=50pf Rs=5)
.ends
*
*********************************************************************
* TRIACs PSpice Library *
*********************************************************************
*********************************************************************
* Standard TRIACs definition *
*********************************************************************
*
*$
.subckt T830-8FP A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=30ma Ih=50ma Rt=0.04 Standard=1
* 2015 / ST / Rev 0
.ends
*$
.subckt Z00607MA A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=7ma Ih=5ma Rt=0.42 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0103M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=5ma Ih=7ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0103N A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=5ma Ih=7ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0107M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=7ma Ih=10ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0107N A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=7ma Ih=10ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0109M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=10ma Ih=10ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0109N A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=10ma Ih=10ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0110M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=25ma Ih=25ma Rt=0.4 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt Z0402M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=3ma Ih=3ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0405M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=5ma Ih=5ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0405N A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=5ma Ih=5ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0409M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=10ma Ih=10ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0409N A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=10ma Ih=10ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0410M A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=25ma Ih=25ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt Z0410N A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=25ma Ih=25ma Rt=0.18 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB04-600SL A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=25ma Ih=15ma Rt=0.1 Standard=1
* 2008 / ST / Rev 0
.ends
*$
.subckt T405Q-600 A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=10ma Ih=10ma Rt=0.1 Standard=1
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA06-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.06 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-800C A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=50ma Ih=25ma Rt=0.06 Standard=1
* 2013 / ST / Rev 0
.ends
*$
.subckt BTB06-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.06 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.06 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB06-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.06 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA08-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.05 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA08-800C A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=50ma Ih=25ma Rt=0.05 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.05 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-800C A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=50ma Ih=25ma Rt=0.05 Standard=1
* 2013 / ST / Rev 0
.ends
*$
.subckt BTA08-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.05 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.05 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA10-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.04 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA10-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.04 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA12-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.035 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.035 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.035 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=50ma Rt=0.035 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.035 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=50ma Rt=0.035 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA16-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.025 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA16-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.025 Standard=1
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA16-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=50ma Rt=0.025 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB16-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=50ma Rt=0.025 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB16-600C A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=50ma Ih=25ma Rt=0.025 Standard=1
* 2008 / ST / Rev 0
.ends
*$
.subckt BTB16-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=50ma Rt=0.025 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB24-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB24-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA25-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA25-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA26-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA26-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB26-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.016 Standard=1
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA40-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.010 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA40-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=80ma Rt=0.010 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA41-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.01 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA41-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=80ma Rt=0.01 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB41-600B A K G
X1 A K G Triac_ST params: Vdrm=600v Igt=100ma Ih=80ma Rt=0.01 Standard=1
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB41-800B A K G
X1 A K G Triac_ST params: Vdrm=800v Igt=100ma Ih=80ma Rt=0.01 Standard=1
* 1999 / ST / Rev 0
.ends
